### ISSUE TITLE
grind fails when tagging an unrelated lemma

### ISSUE THREAD

**Issue by fpvandoorn** [leanprover/lean4#13725]
### Prerequisites

* [X] Check that your issue is not already filed:
      https://github.com/leanprover/lean4/issues
* [X] Reduce the issue to a minimal, self-contained, reproducible test case.
      Avoid dependencies to Mathlib or Batteries.
* [ ] Test your test case against the latest nightly release, for example on
      https://live.lean-lang.org/#project=lean-nightly
      - (It's hard to test this in the web editor)

### Description

In the following example, when tagging a third lemma with my grind attribute, it seems that other lemmas are not even considered anymore. 
Note: this example depends on two files, since I register my own grind attribute. I put the first file in `Mathlib.Tactics`, but this example doesn't depend on Mathlib in any way.
```lean
-- Mathlib.Tactics
module
public import Lean.Meta.Tactic.Grind.RegisterCommand
register_grind_attr compact_set
```
```lean
module
public import Mathlib.Tactics

def Set (α : Type _) : Type _ := α → Prop
def P {α} (_s : Set α) : Prop := True
def closure {α} (s : Set α) : Set α := s

def set1 {α} (_a : α) : Set α := fun _ ↦ False
def set2 {α} (_a : α) : Set α := fun _ ↦ False
def ℝ := Bool

@[compact_set =]
theorem closure_set1 (a : ℝ) : closure (set1 a) = set1 a := by
  simp [closure]

@[compact_set .]
theorem P_set1 {a : ℝ} : P (set1 a) := by trivial

#guard_msgs in
example (a : ℝ) : P (closure (set1 a)) := by grind only [compact_set]

@[compact_set .]
theorem P_closure_set2 {a : ℝ} : P (closure (set2 a)) := by trivial

/--
error: `grind` failed
-/
#guard_msgs (substring := true) in
example (a : ℝ) : P (closure (set1 a)) := by grind only [compact_set]
```
The error message that `grind` gives seems to show that `closure_set1` isn't even tried once `P_closure_set2` is tagged with `@[compact_set]`.

### Context

[Zulip thread](https://leanprover.zulipchat.com/#narrow/channel/270676-lean4/topic/grind.20fails.20when.20tagging.20another.20lemma/with/594696443)

### Versions

`4.30.0-rc2`

### Impact

Add :+1: to [issues you consider important](https://github.com/leanprover/lean4/issues?q=is%3Aissue+is%3Aopen+sort%3Areactions-%2B1-desc). If others are impacted by this issue, please ask them to add :+1: to it.
